### PR TITLE
[Merged by Bors] - feat: have/let linter

### PR DESCRIPTION
**Pull request by adomani**
The main PR for the `have` vs `let` linter.

The `have` vs `let` linter emits a warning on `have`s introducing a hypothesis whose
Type is not `Prop`.
There are three settings:
* `0` -- inactive;
* `1` -- active only on noisy declarations;
* `2` or more -- always active.
The default value is `1`.

The linter lints mathlib, but, by default, it is silent on complete proofs.

#12157 is an experiment showing what changes the linter would suggest on mathlib.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/HaveLetLinter.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+        let _ : Ord MetavarDecl := { compare := (compare ·.index ·.index) }
+        -- we extract the `MetavarDecl` with largest index after a `have`, since this one
+        -- holds information about the metavariable where `have` introduces the new hypothesis.
+        let largestIdx := mvdecls.toArray.qsort (·.index > ·.index)
+        -- the relevant `LocalContext`
+        let lc := (largestIdx.getD 0 default).lctx
+        -- and the last declaration introduced: the one that `have` created
+        let ld := (lc.lastDecl.getD default).type
+        -- now, we get the `MetaM` state up and running to find the type of `ld`
+        let res ← liftCoreM do MetaM.run (ctx := { lctx := lc }) (s := { mctx := mctx }) <| do
```
Comment (eric-wieser) [inline Mathlib/Tactic/HaveLetLinter.lean:73]: As discussed in the other PR; I think you want `ContextInfo.runMetaM` here. You can get the context you need by using [Lean.Elab.InfoTree.foldInfoTree](https://leanprover-community.github.io/mathlib4_docs/Lean/Server/InfoUtils.html#Lean.Elab.InfoTree.foldInfoTree)

Comment (adomani) [reply Mathlib/Tactic/HaveLetLinter.lean:73]: Eric, I tried to use this, but I cannot see how.  From the `InfoTree`s, I could get a `PartialContextInfo`, produce a `ContextInfo` using `.mergeIntoOuter?`, but then to use `Lean.Elab.InfoTree.foldInfo` I still need a `LocalContext` (that I could probably fetch inside the `MetavarContext` embedded into to `ContextInfo`), but I do not know how to find which goals are post-`have` and which ones are pre-`have`, since they seem to be all mashed together.

On the other hand, if I am at a `.node` of the InfoTree`, I can do what I did, but there I do not seem to have access to a `(Partial)ContextInfo`, so I would not know where to start...

Comment (eric-wieser) [reply Mathlib/Tactic/HaveLetLinter.lean:73]: I came up with this:
```lean
def InfoTree.foldInfoM {α m} [Monad m] (f : ContextInfo → Info → α → m α) (init : α) :
    InfoTree → m α :=
  InfoTree.foldInfo (fun ctx i ma => do f ctx i (← ma)) (pure init)

/-- returns the `have` syntax whose corresponding hypothesis does not have Type `Prop` and
also a `Format`ted version of the corresponding Type. -/
partial
def nonPropHaves : InfoTree → CommandElabM (Array (Syntax × Format)) :=
  InfoTree.foldInfoM
    (fun ctx info args => return args ++ (← do
      let .ofTacticInfo i := info | return #[]
      let stx := i.stx
      if exclusions.contains stx.getKind then return #[]
      unless isHave? stx do return #[]
      let mctx := i.mctxAfter
      let mvdecls := (i.goalsAfter.map (mctx.decls.find? ·)).reduceOption
      let _ : Ord MetavarDecl := { compare := (compare ·.index ·.index) }
      -- we extract the `MetavarDecl` with largest index after a `have`, since this one
      -- holds information about the metavariable where `have` introduces the new hypothesis.
      let largestIdx := mvdecls.toArray.qsort (·.index > ·.index)
      -- the relevant `LocalContext`
      let lc := (largestIdx.getD 0 default).lctx
      -- and the last declaration introduced: the one that `have` created
      let ld := (lc.lastDecl.getD default).type
      -- now, we get the `MetaM` state up and running to find the type of `ld`

      ctx.runMetaM lc do
        let typ ← inferType (← instantiateMVars ld)
        if ! typ.isProp then
          return #[(stx, ← ppExpr ld)]
        else
          return #[]))
    #[]
```

File: Mathlib/Tactic/HaveLetLinter.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+            let typ ← inferType (← instantiateMVars ld)
+            if ! typ.isProp then
+              return nargs.push (stx, ← ppExpr ld)
+            else return nargs
+        return res.1
+      else return nargs
+    else return nargs
```
Comment (eric-wieser) [inline Mathlib/Tactic/HaveLetLinter.lean:80]: You can use `unless` here to flatten the control flow:
```suggestion
    let nargs := (← args.toArray.mapM nonPropHaves).flatten
    let .ofTacticInfo i := i | return nargs
    let stx := i.stx
    if exclusions.contains stx.getKind then return #[] else
    unless isHave? stx do return nargs
    let mctx := i.mctxAfter
    let mvdecls := (i.goalsAfter.map (mctx.decls.find? ·)).reduceOption
    let _ : Ord MetavarDecl := { compare := (compare ·.index ·.index) }
    -- we extract the `MetavarDecl` with largest index after a `have`, since this one
    -- holds information about the metavariable where `have` introduces the new hypothesis.
    let largestIdx := mvdecls.toArray.qsort (·.index > ·.index)
    -- the relevant `LocalContext`
    let lc := (largestIdx.getD 0 default).lctx
    -- and the last declaration introduced: the one that `have` created
    let ld := (lc.lastDecl.getD default).type
    -- now, we get the `MetaM` state up and running to find the type of `ld`
    liftCoreM <| MetaM.run' (ctx := { lctx := lc }) (s := { mctx := mctx }) <| do
      let typ ← inferType (← instantiateMVars ld)
      if ! typ.isProp then
        return nargs.push (stx, ← ppExpr ld)
      else return nargs
```

File: Mathlib/Tactic/HaveLetLinter.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Tactic/HaveLetLinter.lean]: Eric, I factored out your monadic `foldInfo`: I am still trying to wrap my head around it, but it looks great, thanks!

File: Mathlib/Tactic/HaveLetLinter.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Tactic/HaveLetLinter.lean]: Thanks!  This was already included in the code above, which I used.

File: Mathlib/Tactic/HaveLetLinter.lean [hunk 3]
```diff
@@ -0,0 +1,114 @@
...
+      return (typ.isProp, ← ppExpr e)
+
+/-- returns the `have` syntax whose corresponding hypothesis does not have Type `Prop` and
+also a `Format`ted version of the corresponding Type. -/
+partial
+def nonPropHaves : InfoTree → CommandElabM (Array (Syntax × Format)) :=
+  InfoTree.foldInfoM (init := #[]) fun ctx info args => return args ++ (← do
+    let .ofTacticInfo i := info | return #[]
+    let stx := i.stx
+    let .original .. := stx.getHeadInfo | return #[]
```
Comment (adomani) [inline Mathlib/Tactic/HaveLetLinter.lean:81]: This is essentially the only extra change that I added.  Without it, the linter was still flagging, e.g., `replace`.  I think that the reason is that it was descending into the implementation of `replace`, rather than "staying on the surface".

**Comment by adomani** [comment]
As a test, I ran the linter with the "new" monad on a fresh copy of mathlib: I wanted to make sure that it picked up the same issues that the previous version of the linter noticed.

The result is an improvement: I think that they flag essentially the same issues and the new monad pretty-prints better.  However, there is an overflow that I cannot debug.  You can see its effects in [this failed linting step](https://github.com/leanprover-community/mathlib4/actions/runs/8717184502/job/23911967424?pr=12204).

The two places that I identified are a `run_cmd` in `Mathlib/Algebra/Lie/Weights/Basic.lean` and a `local notation3` in `Mathlib/Algebra/Lie/Weights/Basic.lean`.

**Comment by adomani** [comment]
Looking at the places where I had to unset the linter, I am guessing that this is just a matter of a slowdown: `notation3`, `theorem`, run_command` all appear among the list of unlinted commands.


```lean
diff --git a/Mathlib/Algebra/Lie/Weights/Basic.lean b/Mathlib/Algebra/Lie/Weights/Basic.lean
index 7742e87568..3ea8cbfefe 100644
--- a/Mathlib/Algebra/Lie/Weights/Basic.lean
+++ b/Mathlib/Algebra/Lie/Weights/Basic.lean
@@ -56,8 +56,10 @@ open scoped BigOperators TensorProduct
 
 section notation_weightSpaceOf
 
+set_option linter.haveLet false
 /-- Until we define `LieModule.weightSpaceOf`, it is useful to have some notation as follows: -/
 local notation3 "𝕎("M", " χ", " x")" => (toEndomorphism R L M x).maximalGeneralizedEigenspace χ
+set_option linter.haveLet true
 
 /-- See also `bourbaki1975b` Chapter VII §1.1, Proposition 2 (ii). -/
 protected theorem weight_vector_multiplication (M₁ M₂ M₃ : Type*)
diff --git a/Mathlib/AlgebraicGeometry/Restrict.lean b/Mathlib/AlgebraicGeometry/Restrict.lean
index 11aecab1ec..a209fdc975 100644
--- a/Mathlib/AlgebraicGeometry/Restrict.lean
+++ b/Mathlib/AlgebraicGeometry/Restrict.lean
@@ -35,10 +35,12 @@ section
 
 variable (X : Scheme)
 
+set_option linter.haveLet false in
 /-- `f ⁻¹ᵁ U` is notation for `(Opens.map f.1.base).obj U`,
   the preimage of an open set `U` under `f`. -/
 notation3:90 f:91 "⁻¹ᵁ " U:90 => (Opens.map (f : LocallyRingedSpace.Hom _ _).val.base).obj U
 
+set_option linter.haveLet false in
 /-- `X ∣_ᵤ U` is notation for `X.restrict U.openEmbedding`, the restriction of `X` to an open set
   `U` of `X`. -/
 notation3:60 X:60 " ∣_ᵤ " U:61 => Scheme.restrict X (U : Opens X).openEmbedding
diff --git a/Mathlib/MeasureTheory/Covering/Vitali.lean b/Mathlib/MeasureTheory/Covering/Vitali.lean
index 536f1a2dbd..e976f9c92f 100644
--- a/Mathlib/MeasureTheory/Covering/Vitali.lean
+++ b/Mathlib/MeasureTheory/Covering/Vitali.lean
@@ -192,6 +192,7 @@ theorem exists_disjoint_subfamily_covering_enlargment_closedBall [MetricSpace α
     exact ⟨c, cu, by simp only [closedBall_eq_empty.2 h'a, empty_subset]⟩
 #align vitali.exists_disjoint_subfamily_covering_enlargment_closed_ball Vitali.exists_disjoint_subfamily_covering_enlargment_closedBall
 
+set_option linter.haveLet false in
 /-- The measurable Vitali covering theorem. Assume one is given a family `t` of closed sets with
 nonempty interior, such that each `a ∈ t` is included in a ball `B (x, r)` and covers a definite
 proportion of the ball `B (x, 3 r)` for a given measure `μ` (think of the situation where `μ` is
diff --git a/Mathlib/RingTheory/Kaehler.lean b/Mathlib/RingTheory/Kaehler.lean
index 1796e93347..052ed3af6a 100644
--- a/Mathlib/RingTheory/Kaehler.lean
+++ b/Mathlib/RingTheory/Kaehler.lean
@@ -481,10 +481,12 @@ noncomputable def KaehlerDifferential.kerTotal : Submodule S (S →₀ S) :=
       Set.range fun x : R => single (algebraMap R S x) 1)
 #align kaehler_differential.ker_total KaehlerDifferential.kerTotal
 
+set_option linter.haveLet false
 unsuppress_compilation in
 -- Porting note: was `local notation x "𝖣" y => (KaehlerDifferential.kerTotal R S).mkQ (single y x)`
 -- but not having `DFunLike.coe` leads to `kerTotal_mkQ_single_smul` failing.
 local notation3 x "𝖣" y => DFunLike.coe (KaehlerDifferential.kerTotal R S).mkQ (single y x)
+set_option linter.haveLet true
 
 theorem KaehlerDifferential.kerTotal_mkQ_single_add (x y z) : (z𝖣x + y) = (z𝖣x) + z𝖣y := by
   rw [← map_add, eq_comm, ← sub_eq_zero, ← map_sub (Submodule.mkQ (kerTotal R S)),
diff --git a/Mathlib/SetTheory/Game/Basic.lean b/Mathlib/SetTheory/Game/Basic.lean
index ec92a0d3dc..6f3259b0d9 100644
--- a/Mathlib/SetTheory/Game/Basic.lean
+++ b/Mathlib/SetTheory/Game/Basic.lean
@@ -519,6 +519,7 @@ theorem quot_mul_neg (x y : PGame) : ⟦x * -y⟧ = (-⟦x * y⟧ : Game) :=
   Quot.sound (mulNegRelabelling x y).equiv
 #align pgame.quot_mul_neg SetTheory.PGame.quot_mul_neg
 
+set_option linter.haveLet false in
 @[simp]
 theorem quot_left_distrib (x y z : PGame) : (⟦x * (y + z)⟧ : Game) = ⟦x * y⟧ + ⟦x * z⟧ :=
   match x, y, z with
@@ -689,6 +690,7 @@ theorem one_mul_equiv (x : PGame) : 1 * x ≈ x :=
   Quotient.exact <| quot_one_mul x
 #align pgame.one_mul_equiv SetTheory.PGame.one_mul_equiv
 
+set_option linter.haveLet false in
 theorem quot_mul_assoc (x y z : PGame) : (⟦x * y * z⟧ : Game) = ⟦x * (y * z)⟧ :=
   match x, y, z with
   | mk xl xr xL xR, mk yl yr yL yR, mk zl zr zL zR => by
```

**Comment by eric-wieser** [comment]
I think the issue is that `InfoTree.foldInfoM` is a hack, and the right way to do it is to modify `InfoTree.foldInfo` to be monadic.

**Comment by adomani** [comment]
Eric, fair enough!  Do you still think that this version is better or should I revert it to the one with the handcrafted `MetaM` state?

File: Mathlib/Tactic/Linter/HaveLetLinter.lean [hunk 4]
```diff
@@ -0,0 +1,126 @@
...
+    let largestIdx := mvdecls.toArray.qsort (·.index > ·.index)
+    -- the relevant `LocalContext`
+    let lc := (largestIdx.getD 0 default).lctx
+    -- we also accumulate all `fvarId`s from all local contexts before the use of `have`
+    -- so that we can then isolate the `fvarId`s that are created by `have`
+    let mvdeclsOld := (i.goalsBefore.map (mctx.decls.find? ·)).reduceOption
+    let lctxOld := mvdeclsOld.map (·.lctx)
+    let declsOld := (lctxOld.map (·.decls.toList.reduceOption)).join
+    let fvAssOld := declsOld.map (·.fvarId)
+    let oldDecls := lc.decls.toList.reduceOption.filter (! fvAssOld.contains ·.fvarId)
```
Comment (joneugster) [inline Mathlib/Tactic/Linter/HaveLetLinter.lean:105]: `declsOld` and `oldDecls` is a bit unfortunate naming. Am I understanding this correct that `oldDecls` are all `LocalDecl`s that are introduced newly by the tactic in question? If so, wouldn't `declsNew` be more fitting?

File: test/HaveLetLinter.lean [hunk 5]
```diff
@@ -0,0 +1,144 @@
...
+  tauto
+
+/--
+info:
+
+---
+warning: '_zero : Nat' is a Type and not a Prop. Consider using 'let' instead of 'have'.
+[linter.haveLet]
+-/
+#guard_msgs in
```
Comment (joneugster) [inline test/HaveLetLinter.lean:26]: I'm a bit confused about linting level `1`:

If I just comment the `#guard_msgs in`, the linter does not highlight the `have`, and neither does it if I add `set_option linter.haveLet 1`. Only if `set_option linter.haveLet 2` is chosen the linter will display the warning.

Was your intention not that having `set_option linter.haveLet 1` together with `noise` somewhere in the proof would cause the linting warning to be displayed?

File: test/HaveLetLinter.lean [hunk 6]
```diff
@@ -0,0 +1,144 @@
...
+-- I don't know how to silence this test.
+--set_option linter.haveLet 2 in
+--/--
+--warning: '_zero : Nat' is a Type and not a Prop. Consider using 'let' instead of 'have'.
+--[linter.haveLet]
+---/
+--#guard_msgs in
+--example : True := by
+--  have ⟨_zero, _⟩ : Fin 1 := ⟨0, Nat.zero_lt_one⟩
+--  exact .intro
```
Comment (joneugster) [inline test/HaveLetLinter.lean:41]:
```suggestion
/--
warning: '_zero : Nat' is a Type and not a Prop. Consider using 'let' instead of 'have'.
[linter.haveLet]
-/
#guard_msgs in
set_option linter.haveLet 2 in
example : True := by
  have ⟨_zero, _⟩ : Fin 1 := ⟨0, Nat.zero_lt_one⟩
  exact .intro
```

Is this what you want?

File: test/HaveLetLinter.lean [hunk 7]
```diff
@@ -0,0 +1,144 @@
...
+-/
+#guard_msgs in
+example : True := by
+  noise
+  have _a := 0
+  have _b : Nat := 0
+  have _b : 0 = 0 := rfl
+  have _oh : Nat := 0
+  have _b : Nat := 2
+  tauto
```
Comment (joneugster) [inline test/HaveLetLinter.lean:99]: Is there a way to guard an unfinished proof, like this one without `tauto`? If I understand your motivation for level `1` correctly, it's also to trigger on unfinished proofs, isn't it?

I expected that if I delete the `#guard_msgs` here and then delete `tauto` that the linter warnings would pop up. Did I understand this wrongly?

**Review by joneugster — COMMENTED** [review]
Looks quite clean to me! However, I did not quite figure out how level `1` is supposed to work, see comments below.

I also have some remaining thoughts on whether it's actually useful to enforce this linter in mathlib, but if I understand it correctly, the current PR does not and only shows the warnings while working on a statement, which seems nice.

File: test/HaveLetLinter.lean (hunk 5 above)
Comment (adomani) [reply test/HaveLetLinter.lean:26]: I am also confused by this: you understood correctly what the linter is supposed to do.  However, the message that `noise` was logging was somehow invisible to the linter (I do not undestand why, probably because it is "inside" the `TacticM` and does not reach the external state).

Anyway, I replaced `noise` with a macro that simply introduces a vacuous `sorry` and now, hopefully the tests align with what I intended and also what you expected!

**Review by adomani — COMMENTED** [review]
@joneugster, thank you very much for the review!  I acted on all your comments and they were all great!

I also left some clarifications in the various discussions.

File: test/HaveLetLinter.lean (hunk 7 above)
Comment (joneugster) [reply test/HaveLetLinter.lean:95]: ok. I somehow expect that an "unsolved goals" error behaves very similar to a "declaration uses sorry" warning in as many aspects as possible but I see that's not as easy with how messages are reported.

Looks good to me as is.

**Comment by joneugster** [comment]
maintainer-merge

File: Mathlib/Tactic/Linter/HaveLetLinter.lean [hunk 8]
```diff
@@ -0,0 +1,130 @@
...
+-/
+
+open Lean Elab Command Meta
+
+namespace Mathlib.Linter
+
+/-- The `have` vs `let` linter emits a warning on `have`s introducing a hypothesis whose
+Type is not `Prop`.
+There are three settings:
+* `0` -- inactive;
```
Comment (mattrobball) [inline Mathlib/Tactic/Linter/HaveLetLinter.lean:34]: Is this just a limitation of the types that can be passed to a built in option?

Comment (adomani) [reply Mathlib/Tactic/Linter/HaveLetLinter.lean:34]: Essentially yes. A `Lean.Option` is
```lean
/-- A strongly-typed reference to an option. -/
protected structure Option (α : Type) where
  name     : Name
  defValue : α
  deriving Inhabited
```
with an arbitrary type `α`.  However, the `Option` is then stored in a `KVMap`, whose `Value`s need to be in a
```lean
/-- Value stored in a key-value map. -/
inductive DataValue where
  | ofString (v : String)
  | ofBool   (v : Bool)
  | ofName   (v : Name)
  | ofNat    (v : Nat)
  | ofInt    (v : Int)
  | ofSyntax (v : Syntax)
  deriving Inhabited, BEq, Repr
```

Comment (mattrobball) [reply Mathlib/Tactic/Linter/HaveLetLinter.lean:34]: I guess it is discoverable but it would nice to have custom syntax for verbosity of things.

**Comment by mattrobball** [comment]
bors merge
